US05405995
reacting said 3,5-difluorophthalic anhydride with excess water to produce 3,5-difluorophthalic acid; and

reactant | 3,5-difluorophthalic anhydride | FC1=C2C(C(=O)OC2=O)=CC(=C1)F | C8H2F2O3
reactant | water | O | H2O
product | 3,5-difluorophthalic acid | FC1=C(C(C(=O)O)=CC(=C1)F)C(=O)O | C8H4F2O4
